US05494928
A solution of 2.24 g of ethyl 5-fluoro-4-trifluoromethylindole-2-carboxylate in 80 ml of ethanol was treated with 40 ml of 2N sodium hydroxide solution and stirred at room temperature for 1 hour. The alcohol was evaporated and the solution was adjusted to pH 1 with 2N hydrochloric acid. The separated crystals were isolated, washed with water and dried. There were obtained 1.17 g (85%) of 5-fluoro-4-trifluoromethylindole-2-carboxylic acid as beige crystals with m.p. 204°-210°.

reactant | ethyl 5-fluoro-4-trifluoromethylindole-2-carboxylate | 2.24 g | FC=1C(=C2C=C(NC2=CC1)C(=O)OCC)C(F)(F)F | C12H9F4NO2
reactant | sodium hydroxide | 2N, 40 ml | [OH-].[Na+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 5-fluoro-4-trifluoromethylindole-2-carboxylic acid | 1.17 g, 85% | FC=1C(=C2C=C(NC2=CC1)C(=O)O)C(F)(F)F | C10H5F4NO2
